US06610707B1
Benzyl 3-[(Chlorosulfonyl)methyl]-1-piperidinecarboxylate
The title compound was prepared by the method of Preparation 58 from 1-[(benzyloxy)carbonyl]-3-piperidylmethanesulfonic acid [see Preparation 61]and thionyl chloride to afford benzyl 3-[(chlorosulfonyl)methyl]-1-piperidinecarboxylate as an oil.

reactant | 1-[(benzyloxy)carbonyl]-3-piperidylmethanesulfonic acid | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)CS(=O)(=O)O | C14H19NO5S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | benzyl 3-[(chlorosulfonyl)methyl]-1-piperidinecarboxylate | ClS(=O)(=O)CC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H18ClNO4S
